US09029392B2
2-[(Hydroxy)(6-methylpyridin-3-yl)methyl]acrylic acid ethyl ester
To a solution of 6-methylpyridine-3-carbaldehyde (5.0 g, 41 mmol) in ethyl acrylate (10 mL) at room temperature was added DABCO (1.0 g, 9 mmol), and the mixture was stirred overnight. The reaction mixture was concentrated in vacuo and the residue purified by column chromatography (SiO2, hexane to 40% ethyl acetate), to give the title compound (5.6 g, 62%) as a yellow oil. LCMS (ES+) 222.2 (M+H)+, RT 0.98 minutes.

reactant | 6-methylpyridine-3-carbaldehyde | 41 mmol, 5.0 g | CC1=CC=C(C=N1)C=O | C7H7NO
reactant | DABCO | 9 mmol, 1.0 g | C1CN2CCN1CC2 | C6H12N2
reactant | ethyl acrylate | 10 mL | C(C=C)(=O)OCC | C5H8O2
product | 2-[(Hydroxy)(6-methylpyridin-3-yl)methyl]acrylic acid ethyl ester | 5.6 g, 62% | C(C)OC(C(=C)C(C=1C=NC(=CC1)C)O)=O | C12H15NO3
